US07759339B2
1-(1-Methylcyclopropyl)-4-(2-(trifluoromethyl)phenylsulfonyl)piperazine
1-(1-Methylcyclopropyl)piperazine (TFA salt) (50.9 mg, 0.200 mmol) was dissolved in dichloromethane (1.0 mL) and NEt3 (0.3 mL) was added. To this mixture, 2-trifluoromethylbenzenesulfonyl chloride (73.4 mg, 0.300 mmol) was added and the reaction mixture was stirred at room temperature for 1 h. The solvent was evaporated in vacuo and the resulting crude mixture was purified by HPLC (25-40% acetonitrile in water (0.05 TFA buffer). The product containing fractions were concentrated in vacuo until only water was left, basified with NaHCO3 (sat. aq., 20 mL) and extracted with dichloromethane (3×7 mL). The combined organic extracts were dried (MgSO4), filtered and concentrated in vacuo to afford the title compound as a white solid (56.6 mg, 81%). 1H NMR (400 MHz, DMSO-D6) δ ppm 0.28-0.32 (m, 2 H), 0.39-0.44 (m, 2 H), 0.98 (s, 3 H), 2.59 (t, J=4.80 Hz, 4 H), 3.08 (m, 4 H), 7.84-7.93 (m, 2 H), 7.99-8.04 (m, 2 H); ESI-MS: m/z 349.3 (M+H)+.

reactant | 1-(1-Methylcyclopropyl)piperazine | 0.200 mmol, 50.9 mg | CC1(CC1)N1CCNCC1 | C8H16N2
reactant | NEt3 | 0.3 mL | CCN(CC)CC | C6H15N
reactant | 2-trifluoromethylbenzenesulfonyl chloride | 0.300 mmol, 73.4 mg | FC(C1=C(C=CC=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | 1-(1-Methylcyclopropyl)-4-(2-(trifluoromethyl)phenylsulfonyl)piperazine | 56.6 mg, 81% | CC1(CC1)N1CCN(CC1)S(=O)(=O)C1=C(C=CC=C1)C(F)(F)F | C15H19F3N2O2S
